US05998415
A solution of ethyl chloroacetate (20 g, 0.16 mol) in EtOH (50 mL) was added to a stirred solution of ethylenediamine (65 mL, 0.98 mol) in EtOH (300 mL) at 0° C. After addition the cooling bath was removed and the mixture warmed to room temperature. Aft 5 h a solution of sodium methoxide in MeOH (3.7 g Na dissolved in 20 mL MeOH) was added and the mixture stirred for 16 h. The mixture was filtered and the filtrate evaporated in vacuo. The residue as dissolved in EtOH (200 mL) and heated at reflux for 4 h. After this time the solvent was removed by evaporation and the residue partitioned between CH2Cl2 (200 mL) and water (200 mL). The aqueous layer was separated, dried (Na2SO4) and evaporated. The residue was dissolved in CH2Cl2, di-tert-butyldicarbonate (106.6 g, 0.49 mol) was added and the mixture stirred for 1 h. The solution was then washed with water (300 mL) and the organic layer separated, dried (Na2SO4) and evaporated. The residue was triturated in petrol and the undissolved solid collected by filtration. The solid was chromatographed on silica gel, eluting with CH2Cl2 :MeOH (97:3), to afford 4-(tert-butyloxycarbonyl)piperazin-2-one (10.8 g, 33%) as a colourless solid. mp. 158-161° C. 1H NMR (250 MHz, CDCl3) δ 1.48 (9H, s), 3.40 (2H, m), 3.63 (2H, m), 4.10 (2H, s), 6.42 (1H, br s).

reactant | ethyl chloroacetate | 0.16 mol, 20 g | ClCC(=O)OCC | C4H7ClO2
reactant | ethylenediamine | 0.98 mol, 65 mL | C(CN)N | C2H8N2
reactant | di-tert-butyldicarbonate | 0.49 mol, 106.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | EtOH | 300 mL | CCO | C2H6O
product | 4-(tert-butyloxycarbonyl)piperazin-2-one | 10.8 g, 33% | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
